US08664220B2
Step 12: 1-{4′-[4-(2-Benzyl-cyclohexylamino)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester
1-[4′-(4-Amino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester (0.200 g, 0.55 mmol) and 2-benzylcyclohexanone (0.156 g, 0.83 mmol) were combined in toluene and stirred at 110° C. for 1 hour. After cooling to room temperature, THF was added, followed by sodium cyanoborohydride (0.086 g, 1.37 mmol), and the reaction was stirred at room temperature for 2 hours. The mixture was adsorbed onto silica gel and purified by silica gel chromatography to give the title compound.

reactant | 1-[4′-(4-Amino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | 0.55 mmol, 0.200 g | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)N | C22H22N2O3
reactant | 2-benzylcyclohexanone | 0.83 mmol, 0.156 g | C(C1=CC=CC=C1)C1C(CCCC1)=O | C13H16O
reactant | THF | C1CCOC1 | C4H8O
reactant | sodium cyanoborohydride | 1.37 mmol, 0.086 g | C(#N)[BH3-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-{4′-[4-(2-Benzyl-cyclohexylamino)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC1C(CCCC1)CC1=CC=CC=C1 | C35H38N2O3
